US05461158
4-(1-benzylthio-1-methylethyl)-3-methoxycarbonyl-2-methylene-4-butanolide (compound No. 2-1)
To a stirred suspension of zinc dust (0.67 g) activated with hydrochloric acid in THF (15 ml), 2-benzylthio-2-methylpropionaldehyde (1.00 g) dissolved in THF (5 ml) and dimethyl 2-bromomethylfumarate (1.28 g) dissolved in THF (5 ml) were added dropwise in the order named while refluxing under nitrogen atmosphere. The mixture was refluxed for an additional 1.5 hours and saturated aqueous ammonium chloride solution was added to it. After cooling the mixture was filtered by celite. A reaction product was extracted with ethyl acetate from the filtrate. The organic layer was washed with 1N hydrochloric acid, water and then saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by silica gel column chromatography to give 0.63 g (38%) of the titled compound.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-benzylthio-2-methylpropionaldehyde | 1.00 g | C(C1=CC=CC=C1)SC(C=O)(C)C | C11H14OS
reactant | dimethyl 2-bromomethylfumarate | 1.28 g | BrC/C(/C(=O)OC)=C\C(=O)OC | C7H9BrO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | zinc | 0.67 g | [Zn] | Zn
product | 4-(1-benzylthio-1-methylethyl)-3-methoxycarbonyl-2-methylene-4-butanolide | 0.63 g, 38% | C(C1=CC=CC=C1)SC(C)(C)C1C(C(C(=O)O1)=C)C(=O)OC | C17H20O4S
